US05567391
5-(1-methylethyl)-2,4-imidazolidinedione;
5-(1H-indol-2-ylmethyl)-2,4-imidazolidinedione; 5,5-diphenyl-2,4-imidazolidinedione; 3-butyl-5-methyl-2,4-imidazolidinedione; 3-butyl-5-(phenylmethyl)-2,4-imidazolidinedione; 3-butyl-2,4-imidazolidinedione,

reactant | 5-(1H-indol-2-ylmethyl)-2,4-imidazolidinedione | N1C(=CC2=CC=CC=C12)CC1C(NC(N1)=O)=O | C12H11N3O2
reactant | 5,5-diphenyl-2,4-imidazolidinedione | C1(=CC=CC=C1)C1(C(NC(N1)=O)=O)C1=CC=CC=C1 | C15H12N2O2
reactant | 3-butyl-5-methyl-2,4-imidazolidinedione | C(CCC)N1C(NC(C1=O)C)=O | C8H14N2O2
reactant | 3-butyl-5-(phenylmethyl)-2,4-imidazolidinedione | C(CCC)N1C(NC(C1=O)CC1=CC=CC=C1)=O | C14H18N2O2
reactant | 3-butyl-2,4-imidazolidinedione | C(CCC)N1C(NCC1=O)=O | C7H12N2O2
product | 5-(1-methylethyl)-2,4-imidazolidinedione | CC(C)C1C(NC(N1)=O)=O | C6H10N2O2
